US05550292
To a solution of 10 g of 4-hydroxybenzoic acid in 100 ml of N,N-dimethylformamide were added 29.1 g of 4-chlorobenzyl chloride and 25 g of potassium carbonate. The mixture was stirred at 60° C. for 3 hours. After cooling, the reaction mixture was treated with ethyl acetate-water. The resulting ethyl acetate layer was separated, washed with water, dried with anhydrous magnesium sulfate, and subjected to vacuum distillation to remove the solvent. The resulting residue was washed with n-hexane, then collected by filtration, and suspended in 50 ml of ethanol. To the suspension was added 100 ml of a 2N aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 4 days and then neutralized with concentrated hydrochloric acid. The resulting crystals were collected by filtration and recrystallized from chloroform to obtain 16.7 g of 4-(4-chlorobenzyloxy)benzoic acid.

reactant | 4-hydroxybenzoic acid | 10 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 4-chlorobenzyl chloride | 29.1 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorobenzyloxy)benzoic acid | 16.7 g | ClC1=CC=C(COC2=CC=C(C(=O)O)C=C2)C=C1 | C14H11ClO3
